US08859732B2
3,4,5-Tris(octadecyloxy)cyclohexylmethyl alcohol (68.5 g, 74.5 mmol) was dissolved in chloroform (700 ml), pyridine (26.9 ml, 0.33 mol), DMAP (903 mg, 7.39 mmol) and p-toluenesulfonyl chloride (44.9 g, 0.236 mol) were added, and the mixture was stirred for 5 days. The solvent was evaporated, and the residue was precipitated with acetonitrile (700 ml) and washed with acetonitrile (700 ml) to give 3,4,5-tris(octadecyloxy)cyclohexylmethyl tosylate (76.9 g, 71.6 mmol, 96%).

reactant | 3,4,5-Tris(octadecyloxy)cyclohexylmethyl alcohol | 74.5 mmol, 68.5 g | C(CCCCCCCCCCCCCCCCC)OC1CC(CC(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)CO | C61H122O4
reactant | pyridine | 0.33 mol, 26.9 ml | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 0.236 mol, 44.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | DMAP | 7.39 mmol, 903 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3,4,5-tris(octadecyloxy)cyclohexylmethyl tosylate | 71.6 mmol, 76.9 g, 96% | S(=O)(=O)(OCC1CC(C(C(C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)C1=CC=C(C)C=C1 | C68H128O6S
